US07473695B2
A mixture of 100 g of 3,3-dimethoxy-2-butanone and 99.2 g of N,N-dimethylformamide dimethylacetal was stirred at 100° C. for 42 hours. After cooling the reaction mixture, the mixture was concentrated under reduced pressure to give 141 g of 1-dimethylamino-4,4-dimethoxy-1-penten-3-one.

reactant | 3,3-dimethoxy-2-butanone | 100 g | COC(C(C)=O)(C)OC | C6H12O3
reactant | N,N-dimethylformamide dimethylacetal | 99.2 g | COC(N(C)C)OC | C5H13NO2
product | 1-dimethylamino-4,4-dimethoxy-1-penten-3-one | 141 g | CN(C=CC(C(C)(OC)OC)=O)C | C9H17NO3
